US08445684B2
3-[[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethynyl]phenylmethanol
A small resealable tube with stir bar was charged with 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-ethynylpyridine (168 mg, 583 μmol), copper(I) iodide (11 mg, 58 μmol, 0.1 equiv.), and bis(triphenylphosphine)palladium(II) chloride (43 mg, 58 μmol, 0.1 equiv.). To these reactants was added a solution of m-iodobenzyl alcohol (136 mg, 581 μmol, 1 equiv.). The mixture was purged with nitrogen through a needle, then the tube was capped, and the brown suspension was stirred at room temperature for 18.5 h. Solids were removed by suction filtration over celite and were washed with three portions of EtOAc (4 mL each). The solution was evaporated. TLC analysis (silica gel, EtOAc/hexane 3:1) showed, besides some PPh3 and baseline material, a single spot (Rf 0.3). The brown crude product was purified by CC on silica gel (24×2.5 cm, EtOAc/hexane 3:1 changing to 1:0 after appearance of the product). The product-containing fractions were evaporated and dried (50° C./oil pump) to yield 189 mg (82%) of a light-amber glass. 1H NMR (CDCl3, TMS, 250 MHz) δ 8.35 (d, 1H, J=1.4 Hz), 8.28 (d, 1H, J=2.7 Hz), 7.57 (narrow m, 1H), 7.49-7.43 (m, 1H), 7.43-7.32 (m, 3H), 4.73 (s, 2H), 4.53 (m, 1H), 4.35, 4.14 (ABq, 2H, J=10.1 Hz, low-field part br d, J=4.3 Hz, high-field part d, J=2.9 Hz), 3.90 (t, 2H, J=7.6 Hz), 2.47-2.21 (m, 3H, apparently including OH), 1.43 (s, 9H); 13C NMR (CDCl3, 62.5 MHz) δ 156.0, 154.4, 144.3, 141.8, 137.4, 130.3, 129.8, 128.3, 127.2, 123.0, 122.2, 120.5, 92.5, 85.4, 79.7, 68.5, 63.9, 59.8, 46.9 (br), 28.2, 18.8; MS (EI) m/z 394 (M+, 2.7%), 321 (3.8%), 294 (14%), 293 (11%), 265 (10%), 238 (22%), 100 (23%), 57 (100%), 56 (73%).

reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-ethynylpyridine | 583 μmol, 168 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)C#C | C16H20N2O3
reactant | m-iodobenzyl alcohol | 581 μmol, 136 mg, 1 equiv. | IC=1C=C(CO)C=CC1 | C7H7IO
catalyst | copper(I) iodide | 58 μmol, 11 mg, 0.1 equiv. | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 58 μmol, 43 mg, 0.1 equiv. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]ethynyl]phenylmethanol | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)C#CC=1C=C(C=CC1)CO | C23H26N2O4
